US05958910
A mixture of 0.5 g 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrochloride with 0.52 g of benzo[1,3]dioxol-5-sulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored suspension was poured into 25 ml of 1N hydrochloric acid and the solid which thereby separated was filtered off and dissolved in a mixture of 30 ml of ethanol and 20 ml of 2N sodium hydroxide solution. After the addition of 0.5 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. The product separated upon neutralization with concentrated hydrochloric acid. Recrystallization from 100 ml of 60% ethanol yielded 0.30 g of benzo[1,3]dioxol-5-sulfonic acid [4-(3-nitro-phenyl)-thiazol-2-yl]-amide as yellowish crystals.

reactant | 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrochloride | 0.5 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)N
reactant | benzo[1,3]dioxol-5-sulfonyl chloride | 0.52 g | O1COC2=C1C=CC(=C2)S(=O)(=O)Cl | C7H5ClO4S
reactant | hydrochloric acid | 1N, 25 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | benzo[1,3]dioxol-5-sulfonic acid [4-(3-nitro-phenyl)-thiazol-2-yl]-amide | 0.30 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)NS(=O)(=O)C1=CC2=C(OCO2)C=C1 | C16H11N3O6S2
